US09340528B2
To a stirred solution of 2.43 g (10 mmol) intermediate example 1.1 in NMP (45 mL) was added 3.26 g (20 mmol, 2 eq) 1-(4-pyridinyl)-piperazine, and 5.14 mL (3.89 g, 30 mmol, 3 eq) DIPEA at room temperature in a microwave reactor. The solution was heated at 160° C. for 60 min under microwave irradiation. After cooling, 3.28 g (15 mmol, 1.5 eq) 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-benzenamine, 0.22 g (1 mmol, 0.1 eq) Pd(OAc)2, 0.61 g (2 mmol, 0.2 eq) P(oTol)3 and 30 mL potassium carbonate solution (1M in H2O, 3 eq) were added. The solution was heated at 140° C. for 40 min under microwave irradiation. After cooling, the solution was filtered through Kieselgur and evaporated. The residue was dissolved in MeOH/DCM 1:1 and filtered through Kieselgur to give 4.79 g (125%, with residual NMP) 4-[3-(4-pyridin-4-yl-piperazin-1-yl)-quinoxalin-6-yl]-phenylamine: 1H-NMR (300 MHz, d6-DMSO): δ=8.74 (1H, s), 8.17 (2H, d), 7.78 (1H, d), 7.69 (1H, s), 7.63 (1H, d), 7.50 (2H, d), 6.87 (2H, d), 6.64 (2H, d), 5.33 (2H, bs), 3.89 (4H, tr), 3.51 (4H, tr) ppm; UPLC-MS: RT=0.67 min; m/z (ES+) 383.5 [MH+]; required MW=382.5.

reactant | 1-(4-pyridinyl)-piperazine | 20 mmol, 3.26 g, 2 eq | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | DIPEA | 30 mmol, 5.14 mL, 3.89 g, 3 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-benzenamine | 15 mmol, 3.28 g, 1.5 eq | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N)C | C12H18BNO2
reactant | P(oTol)3 | 2 mmol, 0.61 g, 0.2 eq | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
reactant | potassium carbonate | 1M, 30 mL, 3 eq | C([O-])([O-])=O.[K+].[K+]
reactant | NMP | 45 mL | CN1CCCC1=O | C5H9NO
catalyst | Pd(OAc)2 | 1 mmol, 0.22 g, 0.1 eq | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-[3-(4-pyridin-4-yl-piperazin-1-yl)-quinoxalin-6-yl]-phenylamine | 4.79 g, 125% | N1=CC=C(C=C1)N1CCN(CC1)C=1C=NC2=CC=C(C=C2N1)C1=CC=C(C=C1)N | C23H22N6
